US06229020B1
Synthesis of (E) ethyl 3-(2-amino-4-chlorophenyl)-2-methyl-2-propenate
Into 170 ml of acetic acid, 11.0 g of ethyl 3-(4-chloro-2-nitrophenyl)-2-methyl-2-propenate were dissolved; and, while the mixture was stirred, 10.9 g (195.2 mmol) of iron powder (Koso Chem. Co.) and 13 ml of distilled water were added thereto at room temperature. The temperature of the mixture was raised, so that the reaction was carried out at 97° C. for 2 hours. After the end point of the reaction was verified by TLC, the reaction liquid was cooled, and acetic acid was evaporated under a reduced pressure. To the residue, 300 ml of water and 400 ml of ethyl acetate were added. Then, insoluble matters were filtered out. The ethyl acetate layer of thus obtained filtrate was successively washed with water, an aqueous sodium hydrogencarbonate solution, and a saturated aqueous sodium chloride solution; and then was dried for one night with sodium sulfate being added thereto. After sodium sulfate was filtered out from the dried solution, the filtrate was concentrated under a reduced pressure, whereby 9.8 g of a crude crystal were obtained. This crystal was refined by a silica gel column chromatography (aminopropyl-modified silica gel (Fuji Silysia Chem. Co., NH-DM1020); developing solvent: hexane/ethyl acetate=2/1), whereby 7.2 g of the aimed compound were obtained (yield: 73.3%).

reactant | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 3-(4-chloro-2-nitrophenyl)-2-methyl-2-propenate | 11.0 g | ClC1=CC(=C(C=C1)C=C(C(=O)OCC)C)[N+](=O)[O-] | C12H12ClNO4
reactant | water | 13 ml | O | H2O
catalyst | iron | 195.2 mmol, 10.9 g | [Fe] | Fe
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | ethyl 3-(2-amino-4-chlorophenyl)-2-methyl-2-propenate | 7.2 g, yield: 73.3% | NC1=C(C=CC(=C1)Cl)C=C(C(=O)OCC)C | C12H14ClNO2
